US05677310
2-bromo-1,1-diethoxyethane (0.097 mol) was added to a mixture of 2,3-dimethoxyphenol (0.097 mol) and potassium carbonate (0.097 mol) in N,N-dimethylacetamide (200 ml). The reaction mixture was stirred for 24 hours at 140° C. The solvent was evaporated. The residue was partitioned between 1,1'-oxybisethane and a solution of NaOH in water. The organic layer was separated, washed with a saturated NaCl solution, dried (MgSO4), filtered and the solvent was evaporated, yielding 23 g (87.7%) of 1-(2,2-diethoxyethoxy)-2,3-dimethoxybenzene (interm. 1).

reactant | 2-bromo-1,1-diethoxyethane | 0.097 mol | BrCC(OCC)OCC | C6H13BrO2
reactant | 2,3-dimethoxyphenol | 0.097 mol | COC1=C(C=CC=C1OC)O | C8H10O3
reactant | potassium carbonate | 0.097 mol | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 200 ml | CN(C(C)=O)C | C4H9NO
product | 1-(2,2-diethoxyethoxy)-2,3-dimethoxybenzene | 23 g, 87.7% | C(C)OC(COC1=C(C(=CC=C1)OC)OC)OCC | C14H22O5
